US08404869B2
2-Prenyloxy-1,4-benzoquinone (3.0 g, 15.6 mM) and 1-Vinylcyclohexene (6.75 g, 62.5 mM) were dissolved in 50 ml of MeOH, and refluxed for 3 hours. 3-Prenyloxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone (1.61 g, 5.44 mM) was obtained in the same manner as in Example 1.

reactant | 2-Prenyloxy-1,4-benzoquinone | 15.6 mM, 3.0 g | C(C=C(C)C)OC=1C(C=CC(C1)=O)=O | C11H12O3
reactant | 1-Vinylcyclohexene | 62.5 mM, 6.75 g | C(=C)C1=CCCCC1 | C8H12
solvent | MeOH | 50 ml | CO | CH4O
product | 3-Prenyloxy-5,6,7,8-tetrahydro-1,4-phenanthrenequinone | 5.44 mM, 1.61 g | C(C=C(C)C)OC1=CC(C2=CC=C3CCCCC3=C2C1=O)=O | C19H20O3
